US06806395B2
Synthesis of 3,5-bis(1-butylpentyl)phenol
The procedure (including reaction and treatment) of Example 2 was repeated, except that 5-benzyloxy-α,α,α′,α′-tetramethyl-1,3-benzenedimethanol was replaced by 5-benzyloxy-α,α,a′,a′-tetrabutyl-1,3-benzenedimethanol, to thereby yield the above-described target as colorless needles. IR(film)cm−1: 3355, 2957, 2927, 1616, 1597. 1H-NMR(CDCl3)δ: 0.81(12H,t,J=7.3 Hz), 1.05-1.33(16H,m), 1.43-1.63(8H,m), 2.37(2H,t,J=9.1,5.1 Hz), 4.52(1H,s), 6.42(2H,s), 6.47 (1H,s).

reactant | 5-benzyloxy-α,α,α′,α′-tetramethyl-1,3-benzenedimethanol | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(O)(C)C)C(O)(C)C | C19H24O3
reactant | 5-benzyloxy-α,α,a′,a′-tetrabutyl-1,3-benzenedimethanol | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(O)(CCCC)CCCC)C(O)(CCCC)CCCC | C31H48O3
product | 3,5-bis(1-butylpentyl)phenol | C(CCC)C(CCCC)C=1C=C(C=C(C1)C(CCCC)CCCC)O | C24H42O
